US08198388B2
Ethyl 2-[12-hydroxy-2-oxadodecyl]acrylate (1)
To a solution of 54.7 g trifluoromethanesulphonic anhydride in 210 ml dichloromethane a solution of 25 g (0.192 mol) α-hydroxyethylacrylate and 19.43 g (0.192 mol) triethylamine in 400 ml dichloromethane was added slowly, so that the temperature of the reaction mixture stays below 5° C. The solution was stirred for 45 min at 0° C. before it was added drop wise at room temperature to a solution of 60 g (0.344 mol) 1,10-decandiol in 400 ml dichloromethane. After the reaction mixture was stirred for 12 h at room temperature the solution was successively washed with 2×300 ml of an aqueous sodium carbonate solution (1 n) and 1×400 ml water. The organic layer was dried over magnesium sulphate and filtered. The raw product was prepurified by column chromatography on silica gel with ethyl acetate as eluens. After the raw product was stabilized with 113 mg BHT, it was finally purified by vacuum distillation (>150° C./0.028 mbar). This afforded 11.024 g (yield: 20%) of a clear, colourless product.

reactant | trifluoromethanesulphonic anhydride | 54.7 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | α-hydroxyethylacrylate | 0.192 mol, 25 g | OC(C)OC(C=C)=O | C5H8O3
reactant | triethylamine | 0.192 mol, 19.43 g | C(C)N(CC)CC | C6H15N
reactant | 1,10-decandiol | 0.344 mol, 60 g | C(CCCCCCCCCO)O | C10H22O2
solvent | dichloromethane | 210 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | Ethyl 2-[12-hydroxy-2-oxadodecyl]acrylate | yield: 20% | OCCCCCCCCCCOCC(C(=O)OCC)=C | C16H30O4
